US08486979B2
5-(Pyridazin-4-yl)-3-(pyridin-3-yl)-1,2,4-oxadiazole
The titled compound was prepared according to the procedure of Method C using N′-hydroxynicotinimidamide (Aldrich) and pyridazine-4-carboxylic acid (Aldrich). 1H NMR (300 MHz, CD3OD) δ 7.67 (ddd, J=8.1, 5.0, 0.8 Hz, 1 H), 8.45 (dd, J=5.4, 2.4 Hz, 1 H), 8.60 (dt, J=8.1, 1.9 Hz, 1 H), 8.78 (dd, J=5.1, 1.7 Hz, 1 H), 9.34 (dd, J=2.2, 0.8 Hz, 1 H), 9.55 (dd, J=5.4, 1.4 Hz, 1 H), 9.94 (dd, J=2.2, 1.2 Hz, 1 H) ppm; MS (DCI/NH3) m/z=226 (M+H)+.

reactant | N′-hydroxynicotinimidamide | ON=C(C1=CN=CC=C1)N | C6H7N3O
reactant | pyridazine-4-carboxylic acid | N1=NC=C(C=C1)C(=O)O | C5H4N2O2
reactant | NH3 | N | H3N
product | 5-(Pyridazin-4-yl)-3-(pyridin-3-yl)-1,2,4-oxadiazole | N1=NC=C(C=C1)C1=NC(=NO1)C=1C=NC=CC1 | C11H7N5O
